US06531492B1
2-METHYLSULFONYL-5-[5-PHENYL-3-TRIFLUOROMETHYL-1H-PYRAZOL-1-YL]PYRIMIDINE
5-Fluoro-4-thiouracil can be prepared from 5-fluorouracil as described (J. Med. Chem., Vol. 6, pp. 697-701 (1963)). 5-Fluoro-2(1H)-pyrimidinone can be subsequently prepared as described (Acta Chem. Scand., Vol. 23, pp. 294-299 (1969)). 5-Fluoro-2(1H)-pyrimidinone can then be converted to 2-methanesulfonyl-5-fluoropyrimidine by treatment with phosphorus oxychloride, followed by reaction with sodium methanethiolate and oxidation with m-chloroperbenzoic acid as described (Acta Chem. Scand., Vol. B39, pp. 696-696 (1985)). Conversion to the hydrazine is then effected by treatment of 2-methylsulfonyl-5-fluoropyrimidine with hydrazine hydrate in ethanol (Coll. Czech. Chem. Commun., Vol. 37, pp. 1721-17330 (1972)). Subsequent reaction of 2-methylsulfonyl-5-hydrazinopyrimidine with 4,4,4-trifluoro-1-phenyl-1,3-butanedione will then produce the title compound.

reactant | 5-Fluoro-4-thiouracil | FC=1C(NC(NC1)=O)=S | C4H3FN2OS
reactant | 5-fluorouracil | FC=1C(NC(NC1)=O)=O | C4H3FN2O2
reactant | 5-Fluoro-2(1H)-pyrimidinone | FC=1C=NC(NC1)=O | C4H3FN2O
reactant | 2-methanesulfonyl-5-fluoropyrimidine | CS(=O)(=O)C1=NC=C(C=N1)F | C5H5FN2O2S
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium methanethiolate | C[S-].[Na+]
reactant | m-chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | hydrazine | NN | H4N2
reactant | hydrazine hydrate | O.NN
reactant | 2-methylsulfonyl-5-hydrazinopyrimidine | CS(=O)(=O)C1=NC=C(C=N1)NN | C5H8N4O2S
reactant | 4,4,4-trifluoro-1-phenyl-1,3-butanedione | FC(C(CC(=O)C1=CC=CC=C1)=O)(F)F | C10H7F3O2
solvent | ethanol | C(C)O | C2H6O
product | 2-METHYLSULFONYL-5-[5-PHENYL-3-TRIFLUOROMETHYL-1H-PYRAZOL-1-YL]PYRIMIDINE | CS(=O)(=O)C1=NC=C(C=N1)N1N=C(C=C1C1=CC=CC=C1)C(F)(F)F | C15H11F3N4O2S
